US08003692B2
3-(1H-Indol-5-yl)-5,5-dimethyl-cyclohex-2-enone.
Synthesized from 3-Bromo-5,5-dimethyl-cyclohex-2-enone and indole-5-boronic acid pinacol ester according to the general procedure described for the Suzuki coupling. Purification by automated flash chromatography using gradient elution (0 to 80% ethyl acetate/hexanes) yielded the product (177 mg, 95%) as an off-white solid. 1H NMR (300 MHz, CDCl3): δ 8.97 (bs, 1H), 7.84 (s, 1H), 7.39 (d, J=1.2 Hz, 2H), 7.22 (dd, J=3.0, 2.1 Hz, 1H), 6.56 (dd, J=3.0, 2.1 Hz, 1H), 6.49 (t, J=1.5 Hz, 1H), 2.74 (d, J=1.2 Hz, 2H), 2.35 (s, 2H), 1.25 (s, 3H), 1.14 (s, 3H). 13C (75 MHz, CDCl3): 200.4, 159.5, 136.8, 130.2, 127.9, 125.5, 122.4, 120.1, 119.1, 111.3, 103.1, 50.9, 42.6, 33.8, 28.4, 24.9. HRMS (LCT Electrospray): mass calcd for (C16H17NO+Na) m/z 262.1208; measured [M+Na]+: m/z 262.1204.

reactant | 3-Bromo-5,5-dimethyl-cyclohex-2-enone | BrC1=CC(CC(C1)(C)C)=O | C8H11BrO
reactant | indole-5-boronic acid pinacol ester | N1C=CC2=CC(=CC=C12)B1OC(C)(C)C(C)(C)O1 | C14H18BNO2
product | 3-(1H-Indol-5-yl)-5,5-dimethyl-cyclohex-2-enone | 177 mg, 95% | N1C=CC2=CC(=CC=C12)C1=CC(CC(C1)(C)C)=O | C16H17NO
